US09145354B2
Step 3 To a solution of {(R)-1-[3-(6-amino-pyridine-3-carbonyl)-4-chloro-2-fluoro-phenyl]-propyl}-carbamic acid tert-butyl ester (2.18 g, 4.43 mmol) in DCM (50 mL) was added 4M HCl in dioxane (7.75 mL, 31 mmol, 7 eq) and the reaction stirred for 18 h. Complete conversion. Mixture was concentrated and then triturated with diethyl ether (50 mL) and the solid filtered off and dried in a vacuum oven to give [3-((R)-1-amino-propyl)-6-chloro-2-fluoro-phenyl]-(6-amino-pyridin-3-yl)-methanone (1.54 g, 4.35 mmol, 98%) as a beige solid and the HCl salt

reactant | {(R)-1-[3-(6-amino-pyridine-3-carbonyl)-4-chloro-2-fluoro-phenyl]-propyl}-carbamic acid tert-butyl ester | 4.43 mmol, 2.18 g | C(C)(C)(C)OC(N[C@H](CC)C1=C(C(=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)N)F)=O | C20H23ClFN3O3
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 31 mmol, 7.75 mL, 7 eq | O1CCOCC1 | C4H8O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | [3-((R)-1-amino-propyl)-6-chloro-2-fluoro-phenyl]-(6-amino-pyridin-3-yl)-methanone | 4.35 mmol, 1.54 g, 98% | N[C@H](CC)C=1C(=C(C(=CC1)Cl)C(=O)C=1C=NC(=CC1)N)F | C15H15ClFN3O
